US06346547B1
Tricine ethyl ester is prepared by mixing a 500 ml of a suspension of tricine 0.5 g/ml in ethanol with 1 ml of concentrated sulfuric acid. Subsequent distillation of the ethanol water azeotrope forms the ester.

reactant | tricine | N(CC(=O)O)C(CO)(CO)CO | C6H13NO5
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | Tricine ethyl ester | C(C)OC(CNC(CO)(CO)CO)=O | C8H17NO5
